US09062028B2
Step B. N-(2-Aminoethyl)-3-((4-(1-(4-(2,3-dimethylphenoxy)butanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)-1H-pyrazol-1-yl)methyl)benzamide
The title compound was prepared using a procedure analogous to 1-(5-(3-(aminomethyl)phenyl)-3,4-dihydroquinolin-1(2H)-yl)-4-(2,3-dimethylphenoxy)butan-1-one except that tert-butyl 3-(1-(4-(2,3-dimethylphenoxy)butanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)benzylcarbamate was replaced with tert-butyl 2-(3-((4-(1-(4-(2,3-dimethylphenoxy)butanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)-1H-pyrazol-1-yl)methyl)benzamido)ethylcarbamate. LCMS, [M+H]+=566.3. 1H NMR (400 MHz, MeOD) δ 7.89-7.73 (m, 2H), 7.65 (s, 1H), 7.56-7.40 (m, 3H), 7.32-7.19 (m, 2H), 7.17 (br. s, 1H), 6.96 (t, J=7.9 Hz, 1H), 6.71-6.59 (m, 2H), 5.43 (s, 2H), 3.86 (br. s, 2H), 3.74 (t, J=6.8 Hz, 2H), 3.50 (t, J=6.3 Hz, 2H), 2.90 (t, J=6.3 Hz, 2H), 2.81 (t, J=6.8 Hz, 2H), 2.48 (br. s, 2H), 2.12 (dt, J=12.4, 6.3 Hz, 2H), 2.03 (s, 3H), 1.85-1.75 (m, 2H), 1.74 (s, 3H).

reactant | 1-(5-(3-(aminomethyl)phenyl)-3,4-dihydroquinolin-1(2H)-yl)-4-(2,3-dimethylphenoxy)butan-1-one | NCC=1C=C(C=CC1)C1=C2CCCN(C2=CC=C1)C(CCCOC1=C(C(=CC=C1)C)C)=O | C28H32N2O2
reactant | tert-butyl 3-(1-(4-(2,3-dimethylphenoxy)butanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)benzylcarbamate | CC1=C(OCCCC(=O)N2CCCC3=C(C=CC=C23)C=2C=C(CNC(OC(C)(C)C)=O)C=CC2)C=CC=C1C | C33H40N2O4
reactant | tert-butyl 2-(3-((4-(1-(4-(2,3-dimethylphenoxy)butanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)-1H-pyrazol-1-yl)methyl)benzamido)ethylcarbamate | CC1=C(OCCCC(=O)N2CCCC3=C(C=CC=C23)C=2C=NN(C2)CC=2C=C(C(=O)NCCNC(OC(C)(C)C)=O)C=CC2)C=CC=C1C | C39H47N5O5
product | N-(2-Aminoethyl)-3-((4-(1-(4-(2,3-dimethylphenoxy)butanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)-1H-pyrazol-1-yl)methyl)benzamide | NCCNC(C1=CC(=CC=C1)CN1N=CC(=C1)C1=C2CCCN(C2=CC=C1)C(CCCOC1=C(C(=CC=C1)C)C)=O)=O | C34H39N5O3
